US06225310B1
a) N-[5-Chloro-3-(cyclopentylthiocarbamoyl)sulfamoylthiophen-2-yl]acetamide
The title compound was prepared from N-(5-chloro-3-sulfamoylthiophen-2-yl)-acetamide and cyclopentyl isothiocyanate by a procedure analogous to the procedure described in example 15a (yield of crude product: 93%); 1H-NMR (DMSO-d6): δ1.3-2.0 (m, 8H, (CH2)4), 2.28 (s, 3H, CH3), 4.32 (sext, 1H, CH), 7.16 (s, 1H, H-4), 8.48 (br d, 1H, NH), 10.23 (br s, 1H, NH).

reactant | N-(5-chloro-3-sulfamoylthiophen-2-yl)-acetamide | ClC1=CC(=C(S1)NC(C)=O)S(N)(=O)=O | C6H7ClN2O3S2
reactant | cyclopentyl isothiocyanate | C1(CCCC1)N=C=S | C6H9NS
product | N-[5-Chloro-3-(cyclopentylthiocarbamoyl)sulfamoylthiophen-2-yl]acetamide | ClC1=CC(=C(S1)NC(C)=O)S(NC(NC1CCCC1)=S)(=O)=O | C12H16ClN3O3S3
